US07084178B2
cis-4-[[(2-Carbamoyl-cyclopentyl)-(4-chlorobenzenesulfonyl)-amino]-methyl]-benzoic acid methyl ester.
The titled compound (161 mg) was prepared in 43% yield from cis-2-(4-chlorobenzenesulfonylamino)-cyclopentanecarboxylic acid amide (250 mg, 0.83 mmol) and methyl 4-(bromomethyl)benzoate according to the N-alkylation procedure described in Example 11: 1H NMR (DMSO-d6) δ 7.82 (d, 2 H, J=8.0 Hz), 7.75 (d, 2 H, J=8.0 Hz), 7.58 (d, 2 H, J=8.0 Hz), 7.33 (d, 2 H, J=8.0 Hz), 7.02 (s br, 1 H), 6.75 (s br, 1 H), 4.67 (AB2,2 H,Δv=20,Jab=24 Hz), 4.33 (m, 1 H), 3.84 (s, 3 H), 2.84 (m, 1 H), 1.73 (m, 4 H), 1.48 (m, 2 H); MS m/e 451.01 (M+H)+.

reactant | cis-2-(4-chlorobenzenesulfonylamino)-cyclopentanecarboxylic acid amide | 0.83 mmol, 250 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCC1)C(=O)N | C12H15ClN2O3S
reactant | methyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
product | cis-4-[[(2-Carbamoyl-cyclopentyl)-(4-chlorobenzenesulfonyl)-amino]-methyl]-benzoic acid methyl ester | 161 mg, 43% yield | COC(C1=CC=C(C=C1)CN(S(=O)(=O)C1=CC=C(C=C1)Cl)[C@H]1[C@H](CCC1)C(N)=O)=O | C21H23ClN2O5S
